US04150139
3-Methylthio-11-phenyl-11H-s-triazolo[3,4-b][3]benzazepine was treated with Raney nickel as described. This procedure provided 11-phenyl-11H-s-triazolo[3,4-b][3]benzazepine as crystals. Colorless prisms (as recrystallized from ethanol), m.p. 217°-218° C.

reactant | 3-Methylthio-11-phenyl-11H-s-triazolo[3,4-b][3]benzazepine | CSC1=NN=C2C(C3=C(C=CN21)C=CC=C3)C3=CC=CC=C3 | C18H15N3S
catalyst | Raney nickel | [Ni] | Ni
product | 11-phenyl-11H-s-triazolo[3,4-b][3]benzazepine | C1(=CC=CC=C1)C1C=2N(C=CC3=C1C=CC=C3)C=NN2 | C17H13N3
